US04221742
The dimethyloctyl chloride is then obtained by reacting the myrcene hydrochloride (neryl/geranyl chloride) with sodium acetate and saponifying the acetate with sodium hydroxide to produce nerol/geraniol. This is then hydrogenated to produce dimethyloctanol, which is treated with HCl in the presence of zinc chloride to produce the dimethyloctyl chloride.

reactant | dimethyloctyl chloride | CC(CCCCCCC)(C)Cl | C10H21Cl
reactant | myrcene hydrochloride | CC(=CCCC(=C)C=C)C.Cl
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | acetate | C(C)(=O)[O-]
reactant | sodium hydroxide | [OH-].[Na+]
product | nerol geraniol | OC\C=C(/CCC=C(C)C)\C.CC(C)=CCC\C(\C)=C\CO | 2C10H18O
